US04172141
1-[2-(2-naphthyl)-2-(methoxy)ethyl]imidazole hydrochloride (800 mg.) in 50 ml. of dichloromethane is shaken with excess dilute potassium carbonate solution until the salt is completely neutralized. The organic layer is then separated, washed twice with water, dried over magnesium sulfate and evaporated to yield 1-[2-(2-naphthyl)-2-(methoxy)ethyl]-imidazole.

reactant | 1-[2-(2-naphthyl)-2-(methoxy)ethyl]imidazole hydrochloride | 800 mg | Cl.C1=C(C=CC2=CC=CC=C12)C(CN1C=NC=C1)OC
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-[2-(2-naphthyl)-2-(methoxy)ethyl]-imidazole | C1=C(C=CC2=CC=CC=C12)C(CN1C=NC=C1)OC | C16H16N2O
